US07211573B2
d) (6S,7R)-7-Amino-6-ethyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one
The title compound was prepared in quantitative yield by reaction of 590 mg (1.93 mmol) ((6S,7R)-6-ethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester with 2.86 g (29 mmol) ortho phosphoric acid in 6 ml tetrahydrofurane, MS m/e (%): 207.1 (M+H+, 100).

reactant | ((6S,7R)-6-ethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester | 1.93 mmol, 590 mg | C(C)(C)(C)OC(N[C@@H]1[C@@H](OC2=C(NC1=O)C=CC=C2)CC)=O | C16H22N2O4
reactant | ortho phosphoric acid | 29 mmol, 2.86 g | P(O)(O)(O)=O | H3O4P
solvent | tetrahydrofurane | 6 ml | O1CCCC1 | C4H8O
product | (6S,7R)-7-Amino-6-ethyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | quantitative yield | N[C@@H]1[C@@H](OC2=C(NC1=O)C=CC=C2)CC | C11H14N2O2
